US05244908
Synthesis of 5-[6-(phthalimido)hexylthio]imidazo[1,2-a]pyridine (Compound 156)
To a suspension of 5-mercaptoimidazo[1,2-a]pyridine (1.50g, 10 mmoles) and N-[6-(bromo)hexyl]phthalimide (3.10 g, 10 mmoles) in ethanol (100 ml) was added triethylamine (2.1 ml, 15 mmoles) and the mixture was stirred at room temperature for 12 hours. After the solvent was distilled off, chloroform was added to the residue, which was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled off. Then the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 2.86 g of the desired product (75.5%, light tan solid).

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 10 mmoles, 1.50g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | N-[6-(bromo)hexyl]phthalimide | 10 mmoles, 3.10 g | BrCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H16BrNO2
reactant | triethylamine | 15 mmoles, 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[6-(phthalimido)hexylthio]imidazo[1,2-a]pyridine | 2.86 g, 75.5% | C1(C=2C(C(N1CCCCCCSC1=CC=CC=3N1C=CN3)=O)=CC=CC2)=O | C21H21N3O2S
